2101-02-22 08:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   BPs good o/n, sat
ing well on 2L NC
   [**2-21**]: 2 positive blood cxs: Anaerobic bottle GNR G+R, aerobic GNR
   [**2-22**]: Getting HD this AM
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2101-2-22**] 04:00 AM
   Cefepime add this AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-2-22**] 08:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**03**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 61 (61 - 72) bpm
   BP: 100/32(49) {95/29(49) - 120/47(60)} mmHg
   RR: 25 (19 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             519 mL
   PO:
             TF:
   IVF:
   519 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                     50 mL
   Urine:
                                                                    100 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -300 mL
                                                                    469 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.42/41/290/25/2
   PaO2 / FiO2: 414
   Physical Examination
   Gen: NAD, breathing comfortably
   Neuro: Follows commands (
deep breath!
) despite language barrier
   CV: IV SEM loudest over L 4^th ICS
   Lungs: CTA
   Ab: Small ant abd wall hernia, reducible
   Skin: some ?green discoloration in places, warm, dry
   Labs / Radiology
   36 K/uL
   11.9 g/dL
   77 mg/dL
   8.3 mg/dL
   25 mEq/L
   5.4 mEq/L
   60 mg/dL
   101 mEq/L
   138 mEq/L
   38.4 %
   10.3 K/uL
        [image002.jpg]
                             [**2101-2-21**]  09:43 PM
                             [**2101-2-21**]  09:47 PM
                             [**2101-2-21**]  10:09 PM
                             [**2101-2-22**]  03:49 AM
   WBC
   8.8
   10.3
   Hct
   35.9
   38
   38.4
   Plt
   33
   36
   Cr
   8.3
   TCO2
   28
   Glucose
   225
   77
   Other labs: Lactic Acid:2.2 mmol/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   76F with lupus nephritis, CKD on HD, CAD s/p CABG, HTN, rectovaginal
   fistula who presented from PCP with acute respiratory distress.
   # Polymicrobial Bacteremia: Source likely the RV fistula, especially in
   setting of rectal bleeding in ED. Received Ceftriaxone, Levo and Vanc
   in the ED, getting Cipro/Flagyl here. UTI on UA.
   -          Add Cefepime for GNR coverage
   -          Add new blood cxs
   # Hypoxia:  Resolving, now on 2L NC and saturating well. CT shows
   patchy infiltrates, small bilateral effusions. SIRS physiology
   (UTI/bacteremia) could have provoked acute respiratory distress that
   resolved with IVF and antibiotics. Unlikely that PNA would resolve so
   fast.  CHF not likely as improved with fluids.
   -          Wean O2 as tolerated
   # Thrombocytopenia: Platelets 36, have been chronically low. Previously
   anemic RBC lines now elevated to Hct 38.4 w/macrocytosis. Could this be
   myelodysplastic d/o?
   - Call patient
s PCP: [**Name10 (NameIs) 11286**] working up her low platelets? Is she still
   getting Epogen as part of CRF management?
    # Hypotension: Likely SIRS physiology BPs 90-100 on floor.  Prior
   notes with bp 120-140's, and given CRF, likely runs higher.  Got 1L in
   ED, looked hemoconcentrated on hct.
   - will bolus carefully given on HD, though makes some urine
   - abx as above
   - f/u blood cx, urine cx
   - hold anti-HTN meds
   - maintain sbp>100, tolerate non-invasive MAPs>60, cannot use UOP to
   monitor perfusion as oliguric
   # CRF: Cr slightly up from baseline looks underdialyzed vs
   hemoconcentrated.
   - HD this AM (T/TH/Sa schedule)
   - continue renagel, iron
   - renal diet
   - renally dose meds and avoid nephrotoxins
   # Recal Bleeding/Anemia:  Hct to 35 on repeat after blood found during
   PR Tylenol dosing.  Known hemorrhoids.  GI aware, no acute need for
   scope.  T & S active.
   -          tranfuse if <30 or e/o bleeding
   -          discuss how fistula is being followed with patient
s PCP
   [**Name Initial (PRE) **]          if not well followed, c/s colorectal surgery re fistula
   # Lupus: Continue plaquenil, prednisone
   # Gout: Continue home allopurinol
   # HTN: Holding home meds given hypotension
   # CAD: s/p CABG, continue home meds of statin, ASA, Plavix.  Holding BB
   as above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-2-21**] 11:54 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  Protonix
   VAP:
   Comments:
   Communication:  Cantonese-only, daughter can help translate:
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-2-21**] 11:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-02-23 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2101-2-22**] 11:30 AM
 BLOOD CULTURED - At [**2101-2-22**] 01:47 PM
 FEVER - 101.3
F - [**2101-2-23**] 04:00 AM
   .
   - Several 8-9 beat runs of v tach and complaining of significant back
   pain. V tach and pain improved significantly after 1 mg morphine and
   Magnesium repletion
   - Mild nausea and vomiting of scant fluid overnight
   - Will need cantonese interpreter for ICU consent
   - Request for PICC submitted
   - Positive blood culture speciation still pending
 GNR/GPR likely
   clostridium/bacillus
   - Surgery recommended getting CT abd/pelvis non cont with gastrograffin
   to evaluate for rectovesicular fistula (has been ordered)
   - Spiked temp 101.3 overnight (4am) but already pancultured 4pm
   yesterday
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2101-2-22**] 01:46 PM
   Ciprofloxacin - [**2101-2-23**] 04:23 AM
   Metronidazole - [**2101-2-23**] 06:27 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-2-23**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**03**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 69 (61 - 115) bpm
   BP: 104/49(62) {100/30(49) - 157/67(79)} mmHg
   RR: 19 (14 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,480 mL
                                                                    373 mL
   PO:
                                                                    660 mL
             TF:
   IVF:
                                                                    820 mL
                                                                    373 mL
   Blood products:
   Total out:
                                                                    145 mL
                                                                     60 mL
   Urine:
                                                                    145 mL
                                                                     25 mL
   NG:
   35 mL
   Stool:
   Drains:
   Balance:
                                                                  1,335 mL
                                                                    313 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   35 K/uL
   11.4 g/dL
   81 mg/dL
   5.3 mg/dL
   28 mEq/L
   5.4 mEq/L
   37 mg/dL
   97 mEq/L
   136 mEq/L
   35.2 %
   5.9 K/uL
        [image002.jpg]
                             [**2101-2-21**]  09:43 PM
                             [**2101-2-21**]  09:47 PM
                             [**2101-2-21**]  10:09 PM
                             [**2101-2-22**]  03:49 AM
                             [**2101-2-22**]  03:45 PM
                             [**2101-2-23**]  03:59 AM
   WBC
   8.8
   10.3
   5.9
   Hct
   35.9
   38
   38.4
   35.2
   Plt
   33
   36
   35
   Cr
   8.3
   4.3
   5.3
   TCO2
   28
   Glucose
   [**Telephone/Fax (2) 11308**]
   Other labs: PT / PTT / INR:13.5/51.9/1.2, CK / CKMB /
   Troponin-T:274/3/, ALT / AST:16/30, Alk Phos / T Bili:163/0.3, Lactic
   Acid:2.2 mmol/L, Albumin:3.3 g/dL, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.9 mg/dL
   76F with lupus nephritis, CKD on HD, CAD s/p CABG, HTN, rectovaginal
   fistula who presented from PCP with acute respiratory distress.
   # Polymicrobial Bacteremia: Source likely the RV fistula, especially in
   setting of rectal bleeding in ED. Received Ceftriaxone, Levo and Vanc
   in the ED, getting Cipro/Flagyl and Cefepime here (for GNR coverage).
   UTI on UA as well, which should be covered with current antibiotics
   - Follow-up on new blood/urine cultures
   - Will ask ID regarding coverage for GPR clostridium and bacillus
   # VTach: Brief runs yesterday. Etiology unclear but patient was in
   significant pain, recent hypoxia/hypotension with known cardiac
   disease. Responded well to Morphine and Magnesium repletion
   - Will continue to monitor closely on Telemetry
   - Re-start home beta blocker at low dose
   # Hypoxia:  Resolving, now on 2L NC and saturating well. CT shows
   patchy infiltrates, small bilateral effusions. SIRS physiology
   (UTI/bacteremia) could have provoked acute respiratory distress that
   resolved with IVF and antibiotics. Unlikely that PNA would resolve so
   fast.  CHF not likely as improved with fluids.
   - Wean O2 as tolerated
   # Thrombocytopenia: Platelets 36, have been chronically low. Previously
   anemic RBC lines now elevated to Hct 38.4 w/macrocytosis. Could this be
   myelodysplastic d/o?
   - Call patient
s PCP: [**Name10 (NameIs) 11286**] working up her low platelets? Is she still
   getting Epogen as part of CRF management?
   - Touch base with [**First Name8 (NamePattern2) 306**] [**Last Name (NamePattern1) **] in Heme/Onc who previously saw patient
    # Hypotension: Likely SIRS physiology BPs 90-100 on floor.  Prior
   notes with bp 120-140's, and given CRF, likely runs higher.  Got 1L in
   ED, looked hemoconcentrated on hct.
   - Will bolus carefully if needed given on HD, although she makes some
   urine
   - Abx as above
   - F/u blood cx, urine cx
   - Will start low-dose beta blocker per above
   - Maintain sbp>100, tolerate non-invasive MAPs>60, cannot use UOP to
   monitor perfusion as oliguric
   # CRF: Cr slightly up from baseline - ? underdialyzed vs
   hemoconcentrated.
   - HD tomorrow (T/TH/Sa schedule)
   - Follow up Renal recs
   - Continue renagel, iron
   - Renal diet
   - Renally dose meds and avoid nephrotoxins
   # Rectal Bleeding/Anemia:  Hct stable at 35 after blood found during PR
   Tylenol dosing on admission.  Known hemorrhoids.  GI aware, no acute
   need for scope.  T & S active.
   -          Transfuse if <30 or e/o bleeding
   -          General Surgery to evaluate CT abd/pelvis with graftograffin
   to assess fistula
   # Lupus: Continue plaquenil, prednisone
   # Gout: Continue home allopurinol
   # HTN: Holding home meds given hypotension
   # CAD: s/p CABG, continue home meds of statin, ASA, Plavix.  Holding BB
   as above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-2-21**] 11:54 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  Protonix
   VAP:
   Comments:
   Communication:  Cantonese-only, daughter can help translate:
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-2-21**] 11:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: